US07645771B2
Preparation of 4-chloro-2-fluoro-5-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]-N-(2,2,2-trifluoroethyl)benzenesulfonamide
8.792 g (19.7 mmol) 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole and 6.59 g (19.7 mmol) 2-chloro-5-[(2,2,2-trifluoroethylamino)sulfonyl]-4-fluorobenzoic acid were combined following the HATU general procedure in Example 5. This compound was purified by flash chromatography on a 0-100% gradient of 1N methanolic ammonia in ethyl acetate in ethyl acetate. 6.31 g obtained (42% yield). 1H NMR (300 MHz, DMSO-d6) δ 9.18-9.25 (br, 1H), 7.75-7.94 (m, 2H), 7.35-7.52 (m, 3H), 7.22-7.28 (m, 2H), 7.04-7.15 (m, 3H), 4.45-4.56 (m, 1H), 3.80-4.00 (m, 3H), 3.20-3.43 (m, 6H), 2.99-3.07 (m, 1H), 2.48-2.52 (m, 3H), 2.32-2.41 (m, 2H), 1.97-2.29 (br, 2H), 1.74-1.91 (m, 8H), 1.59-1.64 (m, 2H).

reactant | 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 19.7 mmol, 8.792 g | FC=1C=C(C=CC1)C1(CCNCC1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C28H35FN4
reactant | 2-chloro-5-[(2,2,2-trifluoroethylamino)sulfonyl]-4-fluorobenzoic acid | 19.7 mmol, 6.59 g | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NCC(F)(F)F | C9H6ClF4NO4S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 4-chloro-2-fluoro-5-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]-N-(2,2,2-trifluoroethyl)benzenesulfonamide | 42% yield | ClC1=CC(=C(C=C1C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)S(=O)(=O)NCC(F)(F)F)F | C37H39ClF5N5O3S
